US06635753B1
Crude slightly beige Stavudine (17.25 g, 96.02% pure, 0.0739 mole) was combined with N,N-dimethylacetamide (25.91 g, 1.5 parts) and isopropanol (52 mL, 3 volumes) and heated to 79° C. when all solids dissolved. The cloudy mixture was filtered through dicalite and washed with isopropanol (12.5 mL). The filtrate was initially concentrated at atmospheric pressure and then a slight vacuum was applied so that the distillation occurred at 60-70° C. It was estimated that about 1.7 g of isopropanol remained. The solution was cooled, filtered, washed and dried to give 17.30 g of Stavudine-DMA solvate (0.0556 mol, 75.2%) with a chromatographic purity of 99.59%.

reactant | Stavudine | 0.0739 mole, 17.25 g | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO | C10H12N2O4
reactant | N,N-dimethylacetamide | 25.91 g | CN(C(C)=O)C | C4H9NO
solvent | isopropanol | 52 mL | C(C)(C)O | C3H8O
product | Stavudine DMA | 0.0556 mol, 17.30 g, 75.2% | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO.CC(=O)N(C)C | InChI=1S/C10H12N2O4.C4H9NO/c1-6-4-12(10(15)11-9(6)14)8-3-2-7(5-13)16-8;1-4(6)5(2)3/h2-4,7-8,13H,5H2,1H3,(H,11,14,15);1-3H3/t7-,8+;/m0./s1
